US08309580B2
(1) methyl 5-(4-fluorophenyl)-2-methyl-3-furoate
An operation similar to that in Example 1 (1) was performed using 2-chloro-4′-fluoroacetophenone (13.4 g) and methyl acetoacetate (8.6 g) to give the title compound (7.4 g, 63%) as a yellow crystal.

reactant | 2-chloro-4′-fluoroacetophenone | 13.4 g | ClCC(=O)C1=CC=C(C=C1)F | C8H6ClFO
reactant | methyl acetoacetate | 8.6 g | C(CC(=O)C)(=O)OC | C5H8O3
product | methyl 5-(4-fluorophenyl)-2-methyl-3-furoate | 7.4 g, 63% | FC1=CC=C(C=C1)C1=CC(=C(O1)C)C(=O)OC | C13H11FO3
